US08541596B2
N-(4-Ethylbenzyl)-1H-benzo[d]imidazol-5-amine
The compound was synthesized starting from benzimidazol-5-amine (2.66 g; 20 mmol; 1 eq.), 4-ethylbenzaldehyde (2.95 g; 3.02 ml; 22 mmol; 1.1 eq.), NaBH4 (1.14 g; 30 mmol; 1.5 eq.) and 5 N NaOH (20 ml; 100 mmol; 5 eq.) according to method 2; Yield: 3.31 g (65.9%); MS m/z: 252.4 [M+H]+; 1H-NMR (500 MHz, DMSO d6): δ 1.14 (t, 3H, 3J=7.6 Hz); 2.56 (q, 2H, 3J=7.6 Hz); 4.22 (s, 2H); 5.98 (br s, 1H); 6.51 (br s); 6.61 (dd, 1H, 4J=2.2 Hz, 3J=8.6 Hz); 7.13-7.14 (m, 2H); 7.26-7.29 (m, 3H); 7.83 (s, 1H); 11.84 (br s, 1H)

reactant | benzimidazol-5-amine | 20 mmol, 2.66 g, 1 eq. | N1=CNC2=C1C=CC(=C2)N | C7H7N3
reactant | 4-ethylbenzaldehyde | 22 mmol, 3.02 ml, 2.95 g, 1.1 eq. | C(C)C1=CC=C(C=O)C=C1 | C9H10O
reactant | NaBH4 | 30 mmol, 1.14 g, 1.5 eq. | [BH4-].[Na+]
reactant | NaOH | 100 mmol, 5 N, 20 ml, 5 eq. | [OH-].[Na+]
product | N-(4-Ethylbenzyl)-1H-benzo[d]imidazol-5-amine | C(C)C1=CC=C(CNC2=CC3=C(NC=N3)C=C2)C=C1 | C16H17N3
